********************************************************
********************************************************
*rectangular window, transformation
********************************************************
********************************************************
.subckt VTEAMr_t TE BE XSV params:
+ alphaoff=3 alphaon=3 voff=-0.8 von=0.8 koff=1u kon=-1u kfor=0.6u
+ Roff=10k Ron=2k woff=10n won=0 wini=3.75n

*resistive port
.param xini={(wini-won)/(woff-won)}
.func rcal(c,d) {(c/(Ron+(Roff-Ron)*d))}
Gmem TE BE value={rcal(V(TE,BE),V(XSV))}
*end of resistive port

*state equation
.param norm=1u
.param koffn={norm*koff/(woff-won)}
.param konn={norm*kon/(woff-won)}
.func aLTb(a,b) {IF(a<b,1,0)}
.func aGTb(a,b) {IF(a>b,1,0)}

Ggplus 0 G value={konn*(V(TE,BE)/von-1)**alphaon*aGTb(V(TE,BE),von)}
Ggminus 0 G value={koffn*(V(TE,BE)/voff-1)**alphaoff*aLTb(V(TE,BE),voff)}
Ggforget 0 G value={kfor*1n*norm}
Raux G 0 1G
Cint G 0 {norm} IC={0}
xdiode1 G high idealdiode
vhigh high 0 {0.5-F(xini)}
xdiode2 low G idealdiode
Vlow low 0 {-0.5-F(xini)}

*G to x conversion
Ex XSV 0 value={FI(v(G)+F(xini))}

*Rectangular window
.func FI(x) {TABLE(x,-0.5, 0, 0.5,1)}

.func F(x) {TABLE(x,0, -0.5, 1,0.5)}

.ends VTEAMr_t